US06197826B1
Synthesis of α-(3-Fluoro-2-hydroxyphenyl)-N-tert-butylnitrone
The title compound was prepared according to the procedure described in Example 1 using 3-fluoro-2-hydroxybenzaldehyde and N-tert-butylhydroxylamine. The title compound was isolated in 92.7% yield as a yellow crystalline solid, m.p. 70.3° C. (Rf=0.25 on a silica gel plate using 7:3 hexanes/EtOAc as an eluant).

reactant | 3-fluoro-2-hydroxybenzaldehyde | FC=1C(=C(C=O)C=CC1)O | C7H5FO2
reactant | N-tert-butylhydroxylamine | C(C)(C)(C)NO | C4H11NO
product | α-(3-Fluoro-2-hydroxyphenyl)-N-tert-butylnitrone | FC=1C(=C(C=CC1)C=[N+]([O-])C(C)(C)C)O | C11H14FNO2
